Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
s/p fall down 6 steps
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is an ___ who fell down approximately ___ steps while 
walking down her staircase. Patient cannot remember how she fell 
but denies prodromal symptoms. States she fell directly onto her 
face, no LOC. Was able to get up and call
her son who brought her to the ___ where CT head showed 
left sided ant/posterior maxillary fractures as well as left 
sided nasal fracture as well as fractures of the anterior 
corners of C4 and C6 for which Orthopaedic Spine service and 
Plastics service is consulted. She was also found to have a UTI 
at OSH and given ceftriaxone. Patient denies headache, vision 
changes. No pain with eye movement. Endorses mild left sided 
facial tenderness, mild bilateral wrist pain. ROS otherwise 
negative.
 
Past Medical History:
breast cancer, nephrectomy, HTN
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
PHYSICAL EXAMINATION
 
Temp: 98.6 HR: 84 BP: 130/56 Resp: 18 O(2)Sat: 98 Normal
Constitutional: Comfortable
HEENT: bilateral periorbital ecchymosis and edema, Pupils
equal, round and reactive to light, left eye has a small
conjunctival hematoma
Wearing C-collar. Posterior midline
tenderness.
Dried blood in both nares, no septal hematoma.
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nontender
Extr/Back: no chest wall tenderness, no hip tenderness
Skin: Abrasion and ecchymosis on right
forehead.
Right hand ecchymosis.
Neuro: extremity motor exam neurologically intact.
Psych: Normal mentation
___: No petechiae
 
Pertinent Results:
___ 01:15PM BLOOD WBC-11.1* RBC-3.10* Hgb-9.8* Hct-31.6* 
MCV-102* MCH-31.6 MCHC-31.0* RDW-12.8 RDWSD-48.3* Plt ___
___ 11:33AM BLOOD Glucose-86 UreaN-22* Creat-1.7* Na-142 
K-3.5 Cl-108 HCO3-21* AnGap-17
___ 11:33AM BLOOD Calcium-9.1 Phos-3.4 Mg-1.9

Radiology: ___
R shoulder xray: No fracture or dislocation.
R hand xray: 1.  No fracture. 
2. Osteoarthritis with degenerative changes involving the DIP
joints, CMC, and first MCP joint.  Findings at the distal
interphalangeal joints of all the fingers suggests possible
erosive osteoarthritis. 
3.  Osteopenia. 
L wrist xray: Partially corticated ossific density projecting at
base of fifth metacarpal is likely the portion of the hamate in 
a
slightly oblique view however this could represent a subtle
avulsion injury.  Correlation for focal tenderness is 
recommended. 
L femur xray: 1.  No fracture. 
2.  Progression of mild degenerative changes of left knee. 
MRI C spine: 1. Edema in the anterior aspect of the C4-5 disc 
and
minimal edema in the anterior longitudinal ligament at this
level, associated with C5 superior anterior corner fracture. 
C4-5 alignment is preserved. 
2. Edema in the anterior aspect of the C6-7 disc and posterior
aspect of the C7 superior endplate, as well as edema and 
possible
small focal disruption of the anterior longitudinal ligament at
C6-7, associated with C6 anterior inferior corner fracture. 
Minimal retrolisthesis of C6 on C7 is slightly more 
conspicuous than on the CT from up approximately 12 hr earlier. 
3. Interspinous ligament edema from C1-C2 through C6-C7. 
4. Fracture of the T4 vertebral body and bilateral pedicles, 
with
mild loss of vertebral body height and associated buckling of 
the
posterior longitudinal ligament.  No evidence for posterior
ligamentous complex injury at this level. 
5. Multilevel degenerative disease.  The ventral spinal cord is
minimally remodeled at C3-4, but maintains normal signal. 
 
Brief Hospital Course:
___ s/p mechanical fall, + head strike, no LOC, with polytrauma, 
left maxillary sinus fractures, as well as fractures of the 
anterior corners of C4 and C6 vertebral bodies, hemodynamically 
stable with no neurological deficits. Evaluated by spine surgery 
with recommendations for MRI of C-spine to evaluate for 
ligamentous injury. Evaluated by Plastics and recommended sinus 
precautions, follow-up in clinic outpatient. The patient was 
admitted to the ACS service for pain management, physical 
therapy evaluation, and further work-up. Cervical MRI revealed 
interspinous ligament edema from C1-C2 through C6-C7. Spine 
recommended no acute surgical intervention and hard cervical 
collar at all times until follow-up in clinic. Tertiary survey 
revealed no other injuries. 

The patient worked with the Physical therapists, who recommended 
home with home ___. The patient's daughter was also going to be 
providing ___ help. At the time of discharge, the patient was 
doing well, afebrile and hemodynamically stable.   The patient 
was tolerating a diet, ambulating, voiding without assistance, 
and pain was well controlled.  The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan. She was 
discharged on a course of antibiotics for the UTI and will 
follow-up with her urologist.

 
Medications on Admission:
Active Medication list as of ___:  
 
 Medications - Prescription  
 ATENOLOL - Dosage uncertain - (Prescribed by Other  
 Provider)Entered by MA/Other Staff  
 ATORVASTATIN - Dosage uncertain - (Prescribed by Other  
 Provider)Entered by MA/Other Staff  
 
 Medications - OTC  
 ACETAMINOPHEN [TYLENOL] - Dosage uncertain - (Prescribed by  
Other Provider)Entered by MA/Other Staff  

 
Discharge Medications:
1. OxycoDONE (Immediate Release)  5 mg PO Q3H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q3H Disp #*25 Tablet 
Refills:*0
2. Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*40 Tablet Refills:*0
3. Atenolol 25 mg PO DAILY 
4. Atorvastatin 10 mg PO QPM 
5. Ciprofloxacin HCl 500 mg PO Q24H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth once a day 
Disp #*7 Tablet Refills:*0
6. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. C4, C6 vertebral body anterior corner fractures
2. Interspinous ligament edema from C1-C2 through C6-C7
3. Left sided anterior/posterior maxillary fractures and left 
sided nasal fracture
4. Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
You were admitted to ___ after 
injuries sustained from a fall. You suffered facial fractures, 
and cervical vertebral fractures with associated ligamentous 
injuries. You were also found to have a urinary tract infection. 
You were seen by the Spine doctors and the Plastic surgeons. You 
will need to remain in the hard neck brace until your follow-up 
with the spine doctors. You should also follow-up with the 
Plastics team and your primary care provider. Physical Therapy 
worked with you and determined you were safe for discharge home 
with home ___. You are now ready for discharge. Please follow the 
instructions below to continue your recovery:

* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.

* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
Sinus Precautions:
1. Take the prescribed medications as directed.

2. Do not forcefully spit for several days.

3. Do not smoke for several days.

4. Do not use straws for several days.

5. Do not forcefully blow your nose for at least 2 weeks, even 
though your sinus may feel “stuffy” or there may be some nasal 
drainage.

6. Try not to sneeze; it will cause undesired sinus pressure. If 
you must sneeze, keep your mouth open.

7. Eat only soft foods for several days, always trying to chew 
on the opposite side of your mouth.

8. Do not rinse vigorously for several days. 

Cervical Collar: 

•Wear the cervical collar at all times. ___ stop wearing the 
collar until your doctor tells you to.

•Keep two collars on hand in case one becomes damaged or you 
need to remove one for cleaning.

•Check the skin under your brace daily for redness, tenderness, 
or drainage.

•Use chairs with arms. The arms make it easier for you to stand 
up or sit down; this puts less strain on your neck.

•Remove things that may cause you to fall, such as throw rugs 
and electrical cords.

•Use nonslip bath mats, grab bars, and a shower chair in your 
bathroom.

•Arrange your household to keep the items you need handy. Keep 
everything else out of the way.

•Keep your hands free by using ___ pack, apron, or pockets 
to carry things.

Activity

___ bend, twist, or reach until your doctor says it’s okay.

___ lift anything heavier than 4 pounds until your doctor 
says it’s okay.

___ move your head up or down or side to side.

•Nap if you are tired, but ___ stay in bed all day.

___ drive until your doctor says it’s okay or while you are 
taking opioid pain medication.

•If you have not been given instructions about physical therapy, 
be sure to ask your doctor about it.

 
Followup Instructions:
___